US06107329
(R)-(1-Methylcarbamoyl-2-phenyl-ethyl)-carbamic acid tert-butyl ester
Methylamine hydrochloride (3.1 mmol) and Boc-D-phenyl-alanine (2.8 mmol) were coupled according to Procedure A (0-25° C. reaction temperature, 144 hour reaction time, washed with acid first, then base) giving the product which was used without further purification. Yield 760 mg, 96%.

reactant | Methylamine hydrochloride | 3.1 mmol | Cl.CN
reactant | Boc-D-phenyl-alanine | 2.8 mmol | C(=O)(OC(C)(C)C)N[C@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
product | (R)-(1-Methylcarbamoyl-2-phenyl-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](CC1=CC=CC=C1)C(NC)=O)=O | C15H22N2O3
